US04029640
In 100 parts of acetone containing 40 wt. % of water, 10 parts of potassium p-styrenesulfonate and 10 parts of ammonium sulfate were charged. The mixture was stirred at 60° C. for 30 minutes. After cooling to 30° C., the reaction was filtered and the filtrate was condensed and dried to obtain 9.0 parts of ammonium p-styrenesulfonate. Analysis showed that only 0.15 wt. % of K and 0.01 of SO4 were included in the product.

reactant | acetone | CC(=O)C | C3H6O
reactant | potassium p-styrenesulfonate | C=CC1=CC=C(C=C1)S(=O)(=O)[O-].[K+]
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | water | O | H2O
product | ammonium p-styrenesulfonate | C=CC1=CC=C(C=C1)S(=O)(=O)[O-].[NH4+] | InChI=1S/C8H8O3S.H3N/c1-2-7-3-5-8(6-4-7)12(9,10)11;/h2-6H,1H2,(H,9,10,11);1H3
